US05610144
tert-Butyl (2S,5R)-1-(2-aminoacetyl)-5-phenylprolinate may be obtained in a fashion similar to that described in Example 2 A, but starting from 1.22 g of tert-butyl (2S,5R)-1-(2-tert-butoxycarbonylaminoacetyl)-5-phenylprolinate, 0.45 cm3 of iodotrimethylsilane in solution in 30 cm3 of anhydrous chloroform. 0.79 g of tert-butyl (2S,5R)-1-(2-aminoacetyl)-5-phenylprolinate is thus obtained in the form of an oil, used as it is in subsequent syntheses.

reactant | tert-butyl (2S,5R)-1-(2-tert-butoxycarbonylaminoacetyl)-5-phenylprolinate | 1.22 g | C(C)(C)(C)OC(=O)NCC(=O)N1[C@H](C(=O)OC(C)(C)C)CC[C@@H]1C1=CC=CC=C1 | C22H32N2O5
reactant | iodotrimethylsilane | 0.45 cm3 | I[Si](C)(C)C | C3H9ISi
solvent | chloroform | 30 cm3 | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl (2S,5R)-1-(2-aminoacetyl)-5-phenylprolinate | 0.79 g | NCC(=O)N1[C@H](C(=O)OC(C)(C)C)CC[C@@H]1C1=CC=CC=C1 | C17H24N2O3
